US06251926B1
A mixture of ethyl 3-pyridylglyoxylate (6.00 g), hydroxylamine hydrochloride (2.79 g), sodium acetate (4.13 g) and ethanol (80 ml) was heated to reflux for 15 hours. The reaction mixture was concentrated, water was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate to obtain ethyl E-2-hydroxyimino-2-(3-pyridyl)-acetate (3.30 g, yield 51%) as colorless crystals. m.p. 172-173° C.

reactant | ethyl 3-pyridylglyoxylate | 6.00 g | N1=CC(=CC=C1)C(C(=O)OCC)=O | C9H9NO3
reactant | hydroxylamine hydrochloride | 2.79 g | Cl.NO
reactant | sodium acetate | 4.13 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | ethyl E-2-hydroxyimino-2-(3-pyridyl)-acetate | 3.30 g, yield 51% | O\N=C(\C(=O)OCC)/C=1C=NC=CC1 | C9H10N2O3
